datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:18])[H:19])[H:17])[C:6]([C:7](=[C:8]([C:9]([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:23])[H:22])([H:20])[H:21])[H:16])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([H:16])[C:3]([C:4](=[C:5]([H:18])[H:19])[H:17])[C:6]([H:20])([H:21])[C:7]([H:22])=[C:8]([H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11](=[C:12]([H:28])[H:29])[H:27])[H:15])([H:13])[H:14],121.88
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:15])[H:7])([H:5])[H:6].[S:12]=[C:13][S:14][H:16],145.98
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:7]([c:8]1[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]1[H:20])([H:14])[H:15])([H:3])[H:4],49.0783
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16])[H:4],52.7184
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:29])([H:30])[H:31])=[C:18]([C:19]([H:32])([H:33])[H:34])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:18]([C:16]([C:15]([H:26])([H:27])[H:28])[C:17]([H:29])([H:30])[H:31])([C:19]([H:32])([H:33])[H:34])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])[H:8])([H:6])[H:7],82.383
[C:4]#[N:5].[N:0](=[C:1]=[O:2])[H:3]>>[H:3][C:4]#[N:5].[N:0]=[C:1]=[O:2],40.45928
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7](=[C:8]([H:20])[H:21])[H:19])[H:12])[H:11])([H:9])[H:10],61.0864
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26])[H:12])([H:10])[H:11],42.0074
[C:0]([C:1]([C:2]([C:3]([O:4])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:8])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7],112.34
[C:0]([C:1]([C:2]([O:3][O:4][H:12])([H:10])[H:11])([O:5][O:6][H:13])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]([O:3][O:4][H:12])([H:10])[H:11])[H:9])([H:7])[H:8].[O:5][O:6][H:13],74.34968
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2]([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:3]([H:9])([H:10])[H:11],318.56976
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]([C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])([H:17])[H:18])[H:16]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:17])([H:3])([H:4])[H:5].[S:8]([C:9]([c:10]1[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]1[H:23])[H:18])[H:16],9.6232
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([S:12][H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11]([S:12][H:15])([H:13])[H:14],3.3472
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:19])([H:17])[H:18])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:4]1([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])=[C:7]([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],80.2073
[C:4]([H:5])([H:6])[H:7].[O:0]([O:1][H:3])[H:2]>>[O:0]([H:2])[C:4]([H:5])([H:6])[H:7].[O:1][H:3],41.2803
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5]>>[C:0]([H:3])([H:4])[H:5].[C:1](#[N:2])[H:6],109.6208
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20],42.2584
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:6])[H:5],60.668
